US07445825B2
1-(7-bromo-9H-fluoren-2-yl)-ethanone is prepared by the reaction of 2-bromofluorene (available from Aldrich Chemical Company, Milwaukee, Wis.) with acetic anhydride/AlCl3/nitrobenzene according to Tsuno et al., Bull. Chem. Soc. Jpn., 51, 601-607 (1978), incorporated herein by reference.

reactant | 2-bromofluorene | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
reactant | acetic anhydride AlCl3 nitrobenzene | C(C)(=O)OC(C)=O.[Al+3].[Cl-].[Cl-].[Cl-].[N+](=O)([O-])C1=CC=CC=C1
product | 1-(7-bromo-9H-fluoren-2-yl)-ethanone | BrC1=CC=C2C=3C=CC(=CC3CC2=C1)C(C)=O | C15H11BrO
